US07517987B2
Step K: 2,6-Dichloro-benzoic acid 4-carboxy-2-oxo-3-[2-(1-oxo-1H-isoquinolin-2-yl)-propionylamino]-butyl Ester
Trifluoroacetic acid (2 ml) was added to a stirred ice cold solution of 2,6-dichloro-benzoic acid 4-tert-butoxycarbonyl-2-oxo-3-[2-(1-oxo-1H-isoquinolin-2-yl)-propionylamino]-butyl ester (110 mg, 0.19 mmol) in anhydrous dichloromethane (2 ml). The mixture was stirred at 0° C. for 1 h and at room temperature for 0.5 h. The reaction mixture was concentrated under reduced pressure and then the residue was redissolved in dry dichloromethane. This process was repeated several times in order to remove excess trifluoroacetic acid. The residue was then lyophilized twice from HPLC grade water and then purified by reverse phase HPLC using a gradient eluent of 10:90 CH3CN:water to 100:0 CH3CN:water to afford the title compound as white solid (17 mg, 16%): IR (solid) 3295, 1736, 1648, 1618, 1590 cm−1; 1H NMR (400 MHz, DMSO) 1.57 (3H, 2×d), 2.64-2.80 (2H, m), 4.73 (1H, m), 5.14-5.33 (2H, m), 5.44-5.53 (1H, m), 6.67 (1H, m), 7.44-7.74 (7H, m), 8.20 (1H, d), 8.77-8.83 (1H, bd); 13C NMR (100 MHz, DMSO) 16.72, 16.90, 53.77, 105.36, 105.49, 125.48, 126.37, 126.90, 127.49, 128.85, 130.52, 130.67, 131.15, 132.47, 132.82, 132.93, 137.09, 137.12, 161.38, 163.56, 163.64, 171.15, 171.25; MS (FAB+ve, HR) Calculated for C24H20Cl2N2O7 (MH+) 519.0726, found 519.0701.

reactant | Trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 2,6-dichloro-benzoic acid 4-tert-butoxycarbonyl-2-oxo-3-[2-(1-oxo-1H-isoquinolin-2-yl)-propionylamino]-butyl ester | 0.19 mmol, 110 mg | C(C)(C)(C)OC(=O)CC(C(COC(C1=C(C=CC=C1Cl)Cl)=O)=O)NC(C(C)N1C(C2=CC=CC=C2C=C1)=O)=O | C28H28Cl2N2O7
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | 2,6-Dichloro-benzoic acid 4-carboxy-2-oxo-3-[2-(1-oxo-1H-isoquinolin-2-yl)-propionylamino]-butyl Ester | 17 mg, 16% | C(=O)(O)CC(C(COC(C1=C(C=CC=C1Cl)Cl)=O)=O)NC(C(C)N1C(C2=CC=CC=C2C=C1)=O)=O | C24H20Cl2N2O7
